US09107916B2
A. 2-(3-cyclopentyl-5-hydroxypyrazol-1-yl)pyridine-4-carbonitrile
The title compound was prepared in 72% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and ethyl 3-cyclopentyl-3-oxopropanoate according to the procedure for the preparation of Example 158, part A.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | ethyl 3-cyclopentyl-3-oxopropanoate | C1(CCCC1)C(CC(=O)OCC)=O | C10H16O3
product | 2-(3-cyclopentyl-5-hydroxypyrazol-1-yl)pyridine-4-carbonitrile | 72% yield | C1(CCCC1)C1=NN(C(=C1)O)C1=NC=CC(=C1)C#N | C14H14N4O
